US08048887B2
To a vial containing (5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxybenzoic acid (61 mg, 0.145 mmol)) was added DMF (2 mL), N,-ethyl-N,N-diisopropylamine (0.050 mL, 0.29 mmol), cumylamine (39.3 mg, 0.291 mmol), and finally TBTU, o-Benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium tetrafluoroborate (140 mg, 0.436 mmol)). The vial was capped and the solution shaken overnight at room temperature. The crude product was diluted with ethyl acetate, washed with 1M HCl, and extracted. The organic layer was washed with brine, dried over magnesium sulfate, filtered and concentrated. The crude reaction mixture was taken up in acetonitrile, filtered and purified using a Shimadzu preparative HPLC employing acetonitrile/water/TFA where solvent A was 10% acetonitrile/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% acetonitrile/0.1% trifluoroacetic acid with a PHENOMENEX® Luna 10 μm C18 30×100 mm at a gradient of 40-100% B and a flow rate of 25 mL/min. over 10 minutes with a 10 minute hold. The purified product was concentrated in vacuo to give a 42% yield of 2-(4-fluorophenyl)-5-(4-methoxy-3-(2-phenylpropan-2-ylcarbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide as a white solid. The NMR spectrum was recorded at room temperature using a Bruker DRX500 spectrometer. The LC/MS data was obtained on a Shimadzu analytical LC/MICROMASS® Platform LC (ESI+) at 220 nm using the following set of conditions: Waters Sunfire 5 μm C18, 4.6×50 mm column, with a gradient of 0-100% B (B=90% HPLC grade acetonitrile/0.1% trifluoroacetic acid/10% HPLC grade water), (A=90% HPLC grade water/0.1% trifluoroacetic acid/10% HPLC grade acetonitrile), in 3 minutes with a 1 minute hold at a rate of 4 mL/minute. HPLC purity was determined using a Shimadzu analytical LC at 220 nm and 256 nm with a Waters Sunfire C18 3.5 μm 4.6×150 mm column employing water/acetonitrile/0.1% TFA with a gradient of 10-100% B (B=95% HPLC grade acetonitrile/0.1% trifluoroacetic acid/5% HPLC grade water), (A=95% HPLC grade water/0.1% trifluoroacetic acid/5% HPLC grade acetonitrile), in 10 minutes with a 10 minute hold at a rate of 1 mL/minute. The HPLC purity was then confirmed with an orthogonal solvent system and column using a Shimadzu analytical LC with a Waters XBridge phenyl C18 3.5 μm 4.6×150 mm column employing water/methanol/10 mM ammonium bicarbonate with a gradient of 10-100% B (B=95% HPLC grade methanol/10 mM ammonium bicarbonate/5% HPLC grade water), (A=95% HPLC grade water/10 mM ammonium bicarbonate/5% HPLC grade methanol), in 10 minutes with a 10 minute hold at a rate of 1 mL/minute. 1H NMR (500 MHz, CD3OD) δ ppm 1.69-1.88 (m, 6H), 2.99 (s, 3H), 4.09 (s, 3H), 7.20-7.32 (m, 4H), 7.36 (t, J=7.63 Hz, 2H), 7.52 (d, J=8.24 Hz, 2H), 7.57-7.64 (m, 2H), 7.79-7.89 (m, 2H), 7.96 (t, J=6.10 Hz, 2H), 8.12 (br. s., 1H). LCMS m/z 537.13 (M+H), Rt 2.705 min. HPLC Rt 11.563 min. (Sunfire C18) and 12.876 min. (XBridge phenyl C18), 93% purity.

reactant | 5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxybenzoic acid | 0.145 mmol, 61 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=CC(=C(C(=O)O)C2)OC | C24H18FNO5
reactant | ethyl-N,N-diisopropylamine | 0.29 mmol, 0.050 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | cumylamine | 0.291 mmol, 39.3 mg | C(C)(C)(C1=CC=CC=C1)N | C9H13N
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | o-Benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 0.436 mmol, 140 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C2=CC=CC=C2N=N1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-(4-fluorophenyl)-5-(4-methoxy-3-(2-phenylpropan-2-ylcarbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide | 42% yield | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=CC(=C(C=C2)OC)C(NC(C)(C)C2=CC=CC=C2)=O | C33H29FN2O4
